US07288567B2
Step 1: N-tert-Butyloxycarbonyl-3-fluoro-2-nitro aniline
To a solution of 3-fluoro-2-nitro aniline (1 g, 6.4 mmol) in anhydrous THF (20 mL) was added dropwise at 0° C. a solution of sodium hydride (510 mg, 12.8 mmol) in THF (10 mL). After 15 minutes, di-tert-butyl dicarbonate (2.8 g, 13 mmol) was added dropwise and the mixture was refluxed overnight. Water was added and the mixture was extracted with ethyl acetate. The residue was flashed on silica gel to give the desired product in 93% yield. MS (ESI)=257 (MH+)

reactant | 3-fluoro-2-nitro aniline | 6.4 mmol, 1 g | FC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium hydride | 12.8 mmol, 510 mg | [H-].[Na+]
reactant | di-tert-butyl dicarbonate | 13 mmol, 2.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-tert-Butyloxycarbonyl-3-fluoro-2-nitro aniline | 93% yield | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)F)[N+](=O)[O-] | C11H13FN2O4
